US08975288B2
N-(1-propyl-1H-tetrazol-5-yl)cyclopentane-carboxamide (8)
Employing 0.30 g (2.6 mmol) of cyclopentane carboxylic acid and 0.33 mg (2.6 mmol) of 1-propyl-1H-tetrazol-5-amine in the procedure described above and elution with CH2Cl2/MeOH/Et3N (9.3:0.5:0.2) gave the product in 45% yield.

reactant | cyclopentane carboxylic acid | 2.6 mmol, 0.30 g | C1(CCCC1)C(=O)O | C6H10O2
reactant | 1-propyl-1H-tetrazol-5-amine | 2.6 mmol, 0.33 mg | C(CC)N1N=NN=C1N | C4H9N5
product | N-(1-propyl-1H-tetrazol-5-yl)cyclopentane-carboxamide | 45% yield | C(CC)N1N=NN=C1NC(=O)C1CCCC1 | C10H17N5O
